US06133303
Step 2: 6-(2-Imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one
A suspension of NaH (0.29 g, 7.2 mmol, 60% oil dispersion prewashed with dry hexanes) in 18 mL of dry DMF under a nitrogen flow was cooled to 0° C. and imidazole (0.49 g, 7.2 mmol) was added portionwise. The ice bath was removed and the reaction stirred at room temperature 20 minutes. The reaction was cooled to 0° C. and a solution of 6-(β-chloroethoxy)-1-tetralone (1.07 g, 4.8 mmol) in 12 mL of dry DMF was added over several minutes. The ice bath was removed and the reaction stirred at room temperature overnight. The reaction was partitioned between 20 mL of water and 200 mL of EtOAc. The organic portion was removed, and the aqueous portion was extracted with EtOAc (5×50 mL). The combined extracts were washed successively with water and brine, dried, filtered, and concentrated under vacuum to afford 1.6 g of crude product. Purification by flash chromatography (silica gel, 130 g, 8% MeOH in DCM) afforded 0.83 g (67%) of an off-white crystalline solid: CI-MS n/e 256 (M+), 257 (M+ +1);

reactant | NaH | 7.2 mmol, 0.29 g | [H-].[Na+]
reactant | imidazole | 7.2 mmol, 0.49 g | N1C=NC=C1 | C3H4N2
reactant | 6-(β-chloroethoxy)-1-tetralone | 4.8 mmol, 1.07 g | ClCCOC=1C=C2CCCC(C2=CC1)=O | C12H13ClO2
solvent | DMF | 18 mL | CN(C)C=O | C3H7NO
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | 6-(2-Imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 0.83 g, 67% | N1(C=NC=C1)CCOC=1C=C2CCCC(C2=CC1)=O | C15H16N2O2
